US08304419B2
Step A: 5-nitro-1H-benzimidazole-2-carboxylic acid
Methyl 2,2,2-trichloroacetimidate (0.73 g, 4.09 mmol) and trifluoroacetic acid (0.63 mL, 8.17 mmol) were added to a suspension of 4-nitrophenylenediamine (0.50 g, 3.27 mmol) in a 2:3 mixture of dichloromethane/diethyl ether (40 mL). After stirring at RT for 3 h, the reaction mixture was filtered. The residue in the filter was washed with a 1:1 mixture of dichloromethane:ether. The filtrates were combined and shaken with 1.5N aqueous sodium hydroxide (40 mL). The organic layer was removed. A 1:1 mixture of methanol/ether (40 mL) was added, and the mixture was stirred at RT overnight. The precipitated yellow solid was collected by filtration, suspended in water and the mixture acidified with 6N aqueous HCl. The precipitate was collected by filtration and dried under vacuum overnight to give the title compound (0.331 g, 49%) as a white solid. 1H NMR (400 MHz, DMSO-d6): δ 8.56 (s, 1H), 8.20 (d, 1H), 7.79 (d, 1H). MS: m/z 208 (M+H).

reactant | Methyl 2,2,2-trichloroacetimidate | 4.09 mmol, 0.73 g | ClC(C(OC)=N)(Cl)Cl | C3H4Cl3NO
reactant | trifluoroacetic acid | 8.17 mmol, 0.63 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4-nitrophenylenediamine | 3.27 mmol, 0.50 g | [N+](=O)([O-])C1=CC(=C(C=C1)N)N | C6H7N3O2
solvent | dichloromethane diethyl ether | 40 mL | ClCCl.C(C)OCC
product | 5-nitro-1H-benzimidazole-2-carboxylic acid | 0.331 g, 49% | [N+](=O)([O-])C1=CC2=C(NC(=N2)C(=O)O)C=C1 | C8H5N3O4
